US07452886B2
B. 5-Bromo-4-isobutylamino-pyrimidine-2-carbonitrile
To a solution of (5-bromo-2-chloro-pyrimidin-4-yl)-isobutyl-amine (11.2 mmol) in DMSO (30 ml) is added potassium cyanide (22.5 mmol) and sodium p-toluenesulfonic acid (3.75 mmol) in DMSO(17 ml) at room temperature. The mixture is stirred at 75° C. for 18 h and diluted with AcOEt. The organic layer is washed with water and brine, dried over sodium sulfate and concentrated. Chromatography on silica gel (n-hexane:AcOEt=25:1, 15:1 and 12:1) gives the product in 84% yield. Rf=46 (n-hexane:AcOEt=3:1)

reactant | (5-bromo-2-chloro-pyrimidin-4-yl)-isobutyl-amine | 11.2 mmol | BrC=1C(=NC(=NC1)Cl)NCC(C)C | C8H11BrClN3
reactant | potassium cyanide | 22.5 mmol | [C-]#N.[K+]
reactant | sodium p-toluenesulfonic acid | 3.75 mmol | C1(=CC=C(C=C1)S(=O)(=O)O)C.[Na]
reactant | n-hexane | CCCCCC | C6H14
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
solvent | DMSO | 17 ml | CS(=O)C | C2H6OS
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 5-Bromo-4-isobutylamino-pyrimidine-2-carbonitrile | 84% yield | BrC=1C(=NC(=NC1)C#N)NCC(C)C | C9H11BrN4
